US08466296B2
D. Preparation of N-benzyl-1-[7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methanamine
A 200 mL round bottomed flask equipped with a magnetic stir bar is charged with [7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate (40.0 g, 110 mmol) and benzylamine (35.2 g, 328 mmol). The mixture is heated to 95° C. for 3 h, and then heating is discontinued. Once the temperature of the solution is 80° C., heptane (300 mL) is added slowly, with rapid stirring. Once the suspension is cooled to rt, the solid is collected by vacuum filtration, and the filter cake is washed several times with heptane and suction dried to give the title compound (32.55 g, 100%) as a yellow powder. LCMS (Basic Method): 1.93 min, 301 (M+H)+. 1H NMR (300 MHz, DMSO-d6) δ 7.77-7.70 (m, 1H), 7.47-7.18 (m, 6H), 7.10-7.06 (m, 1H), 4.47 (dd, J=2.5, 11.5 Hz, 1H), 4.37-4.29 (m, 1H), 4.15 (dd, J=7.1, 11.5 Hz, 1H), 3.73 (s, 2H), 2.43 (br s, 1H), 2.82-2.70 (m, 2H).

reactant | [7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate | 110 mmol, 40.0 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC2=C(O1)C=C(C=C2)[N+](=O)[O-] | C16H15NO7S
reactant | benzylamine | 328 mmol, 35.2 g | C(C1=CC=CC=C1)N | C7H9N
solvent | heptane | 300 mL | CCCCCCC | C7H16
product | N-benzyl-1-[7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methanamine | 32.55 g, 100% | C(C1=CC=CC=C1)NCC1COC2=C(O1)C=C(C=C2)[N+](=O)[O-] | C16H16N2O4
